US07700628B2
C. 2-[4-(B enzyloxy)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
Using methods substantially equivalent to those described in Example 1-F, 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid (529 mg, 1.27 mmol) and N-(5-chloropyridin-2-yl)-2-aminobenzamide (297 mg, 1.20 mmol) afforded, after purification by chromatography (SiO2: EtOAc in hexanes), 493 mg (63%) of the title compound.

reactant | 4-benzyloxy-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid | 1.27 mmol, 529 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C24H29NO6
reactant | N-(5-chloropyridin-2-yl)-2-aminobenzamide | 1.20 mmol, 297 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
product | 2-[4-(B enzyloxy)-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C36H37ClN4O6
